USRE039571E1
E. Preparation of L-Pro-Gly-L-Phe-L-Leu (SEQ ID NO:6) ELAMS™
Fmoc-L-proline pentafluorophenyl ester (50 mg, 0.1 mmol) is dissolved in anhydrous DMF (1 mL) containing DIEA (17 μL, 0.1 mmol). About 0.5-1.0 mL of this solution is added to Gly-L-Phe-L-Leu ELAMS™ in a test tube and the tube vortexed for about 3 hours. The ELAMS™ are pelleted and washed with DMF (4×) and methylene chloride (2×). Deprotection can be effected by treatment with a solution of 20% piperidine in DMF for 30 min. The ELAMS™ are then washed with DMF (2×), ethanol (2×) and methylene chloride (2×) and dried at 60° C. for 4 hours. The identifier tag for each ELAMS™ is detected and recorded.

reactant | Fmoc-L-proline pentafluorophenyl ester | 0.1 mmol, 50 mg | FC1=C(C(=C(C(=C1OC([C@H]1N(CCC1)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12)=O)F)F)F)F | C26H18F5NO4
reactant | DIEA | 0.1 mmol, 17 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | Gly-L-Phe-L-Leu | NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)O | C17H25N3O4
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | L-Pro-Gly-L-Phe-L-Leu | N1[C@H](C(=O)NCC(=O)N[C@@H](CC2=CC=CC=C2)C(=O)N[C@@H](CC(C)C)C(=O)O)CCC1 | C22H32N4O5
